US04448962
A mixture of 1-(2-hydroxyethyl)-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride 1.50 g (4 millimole), anhydrous acetic acid 0.7 g (7 millimole), triethylamine 0.5 g (5 millimole) and DMF 5 ml was heated at 90°-100° C. for 3 hours under stirring. After cooling, the reaction mixture was evaporated under vacuum, and acidified with acetic acid. The precipitated crystals were collected by filtration, washed successively with water and ethanol and dried. 1.46 g (97%) of 1-(2-hydroxyethyl)-6-fluoro-7-(4-acetyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid was obtained as yellowish powders.

reactant | 1-(2-hydroxyethyl)-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride | 4 millimole, 1.50 g | Cl.OCCN1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O
reactant | acetic acid | 7 millimole, 0.7 g | C(C)(=O)O | C2H4O2
reactant | triethylamine | 5 millimole, 0.5 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(2-hydroxyethyl)-6-fluoro-7-(4-acetyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.46 g, 97% | OCCN1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C(C)=O)F)=O)C(=O)O | C18H20FN3O5
